US09236571B2
[1,1′;3′,1″]Terphenyl-5′-yl 4′-vinylbiphenyl-3-yl ketone (M4)
25 g of (3-bromophenyl)-[1,1′;3′,1″]terphenyl-5′-ylmethanone and 8 g of styreneboronic acid [2156-04-9] are dissolved in 300 ml of toluene, and 100 ml of a 2M sodium carbonate solution are added. The reaction mixture is carefully degassed, and 200 mg of tetrakistriphenylphosphinepalladium are added, and the mixture is heated under reflux for 20 hours. The solution is cooled to room temperature. The phases are separated. The aqueous phase is extracted three times with toluene, the combined organic phases are subsequently washed twice with water, dried over magnesium sulfate, filtered, and the solvent is stripped off in vacuo.

reactant | (3-bromophenyl)-[1,1′;3′,1″]terphenyl-5′-ylmethanone | 25 g | BrC=1C=C(C=CC1)C(=O)C=1C=C(C=C(C1)C1=CC=CC=C1)C1=CC=CC=C1 | C25H17BrO
reactant | styreneboronic acid | 8 g | C(=CC1=CC=CC=C1)B(O)O | C8H9BO2
reactant | sodium carbonate | 2M | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | [1,1′;3′,1″]Terphenyl-5′-yl 4′-vinylbiphenyl-3-yl ketone | C(=C)C1=CC=C(C=C1)C1=CC(=CC=C1)C(=O)C=1C=C(C=C(C1)C1=CC=CC=C1)C1=CC=CC=C1 | C33H24O
